US05840749
2-(6,11-Dihydrodibenz[b,e]oxepin-2-yl)ethanol methanesulfonate (13.5 g) was taken up in 20 ml of absolute ethanol and added to a solution containing ethyl hydroxylamine hydrochloride (11.03 g) and potassium t-butoxide (12.7 g) in 600 ml of absolute ethanol. The mixture was stirred at reflux under a nitrogen blanket for 18 hours then evaporated. The residue was taken up in chloroform and washed with brine, dried, and evaporated. Purification of the residual oil (HPLC, 9:1 DCM-methanol) gave an oil which crystallized from ether-hexane. Recrystallization from ether-cyclohexene gave 1.7 g of 2-(6,11-dihydrodibenz[b,e]oxepin-2-yl)-N-ethyl-N-hydroxyethylamine, as crystals, m.p. 102°-103° C., with softening at 88°0 C.

reactant | 2-(6,11-Dihydrodibenz[b,e]oxepin-2-yl)ethanol methanesulfonate | 13.5 g | CS(=O)(=O)OCCC1=CC2=C(OCC3=C(C2)C=CC=C3)C=C1 | C17H18O4S
reactant | ethyl hydroxylamine hydrochloride | 11.03 g | Cl.C(C)NO
reactant | potassium t-butoxide | 12.7 g | CC(C)([O-])C.[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | 2-(6,11-dihydrodibenz[b,e]oxepin-2-yl)-N-ethyl-N-hydroxyethylamine | 1.7 g | C1=C(C=CC=2OCC3=C(CC21)C=CC=C3)C(CNCC)O | C18H21NO2
